US06503907B2
In analogy to example 3.3, 5-(4-Bromo-but-2-enyloxy)-1-(4-fluoro-phenyl)-1H-indole and 2-ethylaminoethanol were converted to yield 2-(Ethyl-{4-[1-(4-fluoro-phenyl)-1H-indol-5-yloxy]-but-2-enyl}-amino)-ethanol as colorless viscous oil, MS: 369 (MH+).

reactant | 5-(4-Bromo-but-2-enyloxy)-1-(4-fluoro-phenyl)-1H-indole | BrCC=CCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C18H15BrFNO
reactant | 2-ethylaminoethanol | C(C)NCCO | C4H11NO
product | 2-(Ethyl-{4-[1-(4-fluoro-phenyl)-1H-indol-5-yloxy]-but-2-enyl}-amino)-ethanol | C(C)N(CCO)CC=CCOC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)F | C22H25FN2O2
